US04927849
80 g (0.347 moles) of 2-chloroxanthone (DHAR, J. Chem. Soc. 117, 1068) are suspended in 210 ml of chlorosulfonic acid (368.1 g; 3.16 moles) in a 500 ml one neck flask provided with refluxing coolant and calcium chloride valve. The mixture is slowly heated in an oil bath up to 120° C. under magnetic stirring. It is maintained at 120°-130° C. until the gas development ceases (2-3 h). The cool reaction mixture is carefully dropwise added to a becker containing ground ice under mechanical stirring. A heavy crystalline product is separated which is filtered on Buchner and washed with iced H2O. It is dried in air. There are obtained 112 g (98%) of raw 2-(chlorosulfonyl-7-chloroxanthone. After TLC monitoring (silica gel F245 ; toluene, acetic acid 14:1, visualizer UV) the product is used as such for the next reaction.

reactant | 2-chloroxanthone | 0.347 moles, 80 g | ClC1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C13H7ClO2
reactant | chlorosulfonic acid | 3.16 moles, 210 ml, 368.1 g | ClS(=O)(=O)O | ClHO3S
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
product | chlorosulfonyl-7-chloroxanthone | ClS(=O)(=O)C1=CC=CC=2OC3=CC=C(C=C3C(C12)=O)Cl | C13H6Cl2O4S
